US06288192B1
On the other hand, in an egg-plant type flask with an inner volume of 25 ml replaced with argon, 5 ml of purified toluene and 1.2 mg of dichloro{2,2′-thiobis[4-methyl-6-(tert-butyl)phenolato} titanium were mixed by stirring, and then charged into the autoclave. The molar ratio of [Al]/[Ti] of the catalyst solution prepared then was 8,000. After the catalyst solution was mixed by stirring at room temperature for 10 minutes, 31.5 ml of 1-hexene and 14 g of 1-butene were charged and the polymerization was carried out at 40° C. for 1 hour. Then, the polymerization was terminated by adding methanol. Further, the mixture was charged into about 10-fold acidic methanol, and the precipitated polymer was filtered to be dried at 80° C. for about 2 hours. As a result, 1.1 g of poly(1-butene/1-hexene) copolymer was obtained. Mw of the polymer obtained was 582×104, Mn was 227×104, Mw/Mn was 2.6, and no crystal fusion peak by DSC was detected. The glass transition temperature (Tg) was observed at −36° C. and the polymer was amorphous.

reactant | 1-hexene | 31.5 ml | C=CCCCC | C6H12
reactant | 1-butene | 14 g | C=CCC | C4H8
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-butene 1-hexene | C=CCC.C=CCCCC | InChI=1S/C6H12.C4H8/c1-3-5-6-4-2;1-3-4-2/h3H,1,4-6H2,2H3;3H,1,4H2,2H3
